US04143055
EXAMPLE 2 2,3-dihydro-4-methoxy-2-methyl-6-benzofurancarboxylic acid
1 gram of 4-allyl-3-hydroxy-5-methoxybenzoic acid methyl ester in 5 cc of glacial acetic acid and 1.5 cc of 48%HBR is refluxed for 3 hours. After this time the mixture is concentrated to dryness and the crude residue is dissolved in an aqueous alkali solution. 0.3 grams of dimethyl sulfate are added to the resulting solution which is refluxed for two additional hours. The compound of the title which precipitates upon acidification of the cooled reaction mixture is recrystallized from ethyl ether-petroleum ether. Yield 60%. M.p. 180°-182° C.

reactant | 4-allyl-3-hydroxy-5-methoxybenzoic acid methyl ester | 1 gram | COC(C1=CC(=C(C(=C1)OC)CC=C)O)=O | C12H14O4
solvent | acetic acid | 5 cc | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-4-methoxy-2-methyl-6-benzofurancarboxylic acid | Yield 60% | COC1=CC(=CC2=C1CC(O2)C)C(=O)O | C11H12O4
